US05366987
Synthesis of ethyl(±)-5-dodecyl-α,α-dimethyl-2H-tetrazole-2-acetate
When in the general procedure of Example 71 an appropriate amount of 5-dodecyl-1H-tetrazole was substituted for 5-decyl-1H-tetrazole and an appropriate amount of ethyl-2-bromoisobutyrate was substituted for ethyl 2-bromophenylacetate, the title compound was obtained.

reactant | 5-dodecyl-1H-tetrazole | C(CCCCCCCCCCC)C1=NN=NN1 | C13H26N4
reactant | 5-decyl-1H-tetrazole | C(CCCCCCCCC)C1=NN=NN1 | C11H22N4
reactant | ethyl-2-bromoisobutyrate | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | ethyl 2-bromophenylacetate | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
product | ethyl(±)-5-dodecyl-α,α-dimethyl-2H-tetrazole-2-acetate | C(CCCCCCCCCCC)C=1N=NN(N1)C(C(=O)OCC)(C)C | C19H36N4O2
